US04772600
N,N-Diethyl-2-(4-methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate[1:0.5]
Under nitrogen bubbling, a mixture of 2-(4-methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.2 g, 0.015 mole) and 1,1'-carbonyldiimidazole (2.43 g, 0.015 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hrs. The diethylamine (2.19 g, 0.03 mole) was added and the reaction mixture was allowed to stir at room temperature overnight, then heated at reflux for 3 hrs. The tetrahydrofuran was evaporated to dryness. The residue was treated with hot water, filtered through a Celite pad, and allowed to crystallize upon cooling. The solid was collected by filtration, washed with water, and dried under high vacuum at 50°-60° C. overnight to give 1.0 g, mp (softens at 55° C., resolidified) 133°-35° C. Total yield in 2 crops was 1.9 g (38%).

reactant | 2-(4-methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.015 mole, 4.2 g | COC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C15H13N3O3
reactant | 1,1'-carbonyldiimidazole | 0.015 mole, 2.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | diethylamine | 0.03 mole, 2.19 g | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N,N-Diethyl-2-(4-methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | O.C(C)N(C(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)OC)=O)CC | InChI=1S/C19H22N4O2.H2O/c1-4-22(5-2)17(24)13-23-18(14-8-10-15(25-3)11-9-14)21-16-7-6-12-20-19(16)23;/h6-12H,4-5,13H2,1-3H3;1H2
